US07700628B2
Preparation of 2-[4-tert-Butyl-2-(1-methylpiperidin-4-yloxy)benzoylamino]-N-(5-chloropyridin-2-yl)-5-fluoro-benzamide.
The 2-[4-tert-butyl-2-(piperidin-4-yloxy)-benzoylamino]-N-(5-chloropyridin-2-yl)-5-fluorobenzamide (450 mg, 0.86 mmol) was placed in a dry flask and diluted with dry MeOH (0.95 mL). Paraformaldehyde (54.0 mg, 1.8 mmol) and NaCNBH4 (167.0 mg, 2.7 mmol) were added, followed by acetic acid (0.5 mL). The reaction was allowed to stir for 18 h. More paraformaldehyde (54.0 mg), NaCNBH4 (107.0 mg) and acetic acid (1.0 mL) were added, and the reaction was stirred another 18 hrs under N2 at room temperature. The solvents were removed in vacuo, and the residue was diluted with H2O (5.0 mL). The flask was cooled in an ice bath while the pH was adjusted to 8 using saturated sodium bicarbonate. This solution was extracted with EtOAc (5×90 mL). The organics were combined and washed with a saturated solution of sodium bicarbonate and then brine. The organic layer was dried over MgSO4 and the solvents were removed in vacuo to obtain the desired product as a white solid (338.2 mg, 0.63 mmol, 73%).

reactant | 2-[4-tert-butyl-2-(piperidin-4-yloxy)-benzoylamino]-N-(5-chloropyridin-2-yl)-5-fluorobenzamide | 0.86 mmol, 450 mg | C(C)(C)(C)C1=CC(=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=C(C=C2)F)C=C1)OC1CCNCC1 | C28H30ClFN4O3
reactant | Paraformaldehyde | 1.8 mmol, 54.0 mg | C=O | CH2O
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
reactant | paraformaldehyde | 54.0 mg | C=O | CH2O
reactant | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
solvent | MeOH | 0.95 mL | CO | CH4O
product | 2-[4-tert-Butyl-2-(1-methylpiperidin-4-yloxy)benzoylamino]-N-(5-chloropyridin-2-yl)-5-fluoro-benzamide | 0.63 mmol, 338.2 mg, 73% | C(C)(C)(C)C1=CC(=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=C(C=C2)F)C=C1)OC1CCN(CC1)C | C29H32ClFN4O3
